US04536400
EXAMPLE 8 Similar to the description in example 7, sodium p-chlorophenyl phenoxycarbonylphosphonate was prepared and analyzed
From ethyl p-chlorophenyl phenoxycarbonylphosphonate. Yield 36%. T.l.c. Rf 0.54 single spot. By t.l.c. the compound was estimated to contain <0.2% of trisodium osycarbonylphosphonate. IR(KBr) cm-1 : 1710 (CO), 1490, 1270, 1090, 910. Preparation of monoesters of hydroxycarbonylphosphonic acid (of the phosphonic acid group).

reactant | ethyl p-chlorophenyl phenoxycarbonylphosphonate | O(C1=CC=CC=C1)C(=O)P(OCC)(OC1=CC=C(C=C1)Cl)=O | C15H14ClO5P
reactant | trisodium | [Na+].[Na+].[Na+]
reactant | hydroxycarbonylphosphonic acid | OC(=O)P(O)(O)=O | CH3O5P
product | sodium p-chlorophenyl phenoxycarbonylphosphonate | Yield 36% | O(C1=CC=CC=C1)C(=O)P(OC1=CC=C(C=C1)Cl)([O-])=O.[Na+] | InChI=1S/C13H10ClO5P.Na/c14-10-6-8-12(9-7-10)19-20(16,17)13(15)18-11-4-2-1-3-5-11;/h1-9H,(H,16,17);/q;+1/p-1
